US09061991B2
10.0 g (58.1 mmol) of 1,4-diacetoxy-2-butene (trans/cis=85/15), 100 mL of toluene, and 50 mL of a 50% sodium hydroxide aqueous solution were added into a four-necked flask (300 mL), and thereafter, 0.936 g (2.90 mmol) of tetra-n-butylammonium bromide was added thereto as a phase-transfer catalyst. The obtained mixture was stirred at room temperature for 1 hour, and 27.7 g (145 mmol) of 4-toluenesulfonyl chloride was then added to the reaction solution. The obtained mixture was stirred at room temperature for 2.5 hours, and 100 mL of water and 50 mL of toluene were then added to the reaction solution to facilitate liquid separation. The mixture was stirred, and an organic layer was then separated. The organic layer was washed with 100 mL of water three times, and the resultant was then filtrated, while washing the residue with toluene. The obtained filtrate was concentrated at 45° C. under reduced pressure, so as to obtain 24.8 g of 1,4-di-4-toluenesulfonyloxy-2-butene in the form of a crude product of a light yellow solid (yield: 108%).

reactant | 1,4-diacetoxy-2-butene | 58.1 mmol, 10.0 g | C(C)(=O)OCC=CCOC(C)=O | C8H12O4
reactant | sodium hydroxide | [OH-].[Na+]
reactant | 4-toluenesulfonyl chloride | 145 mmol, 27.7 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
catalyst | tetra-n-butylammonium bromide | 2.90 mmol, 0.936 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 100 mL | O | H2O
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | 1,4-di-4-toluenesulfonyloxy-2-butene | 24.8 g | C1(=CC=C(C=C1)S(=O)(=O)OCC=CCOS(=O)(=O)C1=CC=C(C=C1)C)C | C18H20O6S2
